US05114918
cyclo(-DTrp-DAsp-Lys(CHO)-DVal-Leu-)
To a solution of cyclo(-DTrp-DAsp-Lys-DVal-Leu-) (10.5 mg) which was prepared in Example 4, and formic pivalic anhydride(10 ml) in DMF(0. 5ml) was added TEA(10 μl). The reaction mixture was stirred at room temperature for 1 h and concentrated in vacuo. The residue was triturated with water (2 ml) to give the title compound(7.8 mg) as an off-white powder.

reactant | cyclo(-DTrp-DAsp-Lys-DVal-Leu-) | 10.5 mg | N1[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@H](CC(O)=O)C(=O)N[C@@H](CCCCN)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C1=O | C32H47N7O7
reactant | formic pivalic anhydride | 10 ml | C(C(C)(C)C)(=O)OC=O | C6H10O3
solvent | DMF | 5ml | CN(C)C=O | C3H7NO
product | cyclo(-DTrp-DAsp-Lys(CHO)-DVal-Leu-) | 7.8 mg | N1[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@H](CC(O)=O)C(=O)N[C@@H](CCCCNC=O)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C1=O | C33H47N7O8
